US07572820B2
2-[5-Cyano-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indol-1-yl]acetamide
Synthesized as described in Example 4 using 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 2-bromoacetamide: 1H NMR (400 MHz, DMSO-d6) δ 7.82 (d, J=8.5 Hz, 1H), 7.71 (bs, 1H), 7.67 (d, J=8.5 Hz, 1H), 7.34 (bs, 1H), 6.51 (d, J=2.2 Hz, 1H), 4.91 (s, 2H), 2.61 (d, J=7.0 Hz, 2H), 1.95 (m, 1H), 0.92 (d, J=6.6 Hz, 6H); MS (ES) m/z 324 (M+1).

reactant | 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)C | C14H13F3N2
reactant | 2-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | 2-[5-Cyano-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indol-1-yl]acetamide | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)N)CC(C)C)C(F)(F)F | C16H16F3N3O
